US04786311
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(2-methyl-2H-tetrazol-5-yl)benzenesulfonamide
To 25 mL of acetonitrile was added at ambient temperature and pressure 0.48 g of 5-(2-aminosulfonylphenyl)-2-methyl-2H-tetrazole and 0.54 g of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate followed by 0.3 mL of DBU. After being stirred for three hours the reaction mixture was added to 25 g of ice and acidified to pH 3 with hydrochloric acid. The precipitate thus obtained was filtered, washed with water and dried to yield 0.66 g of the desired product, m.p. 214°-222° C. Infrared absorptions at 1720, 1600 and 1580 cm-1 were consistent with the desired structure.

reactant | 5-(2-aminosulfonylphenyl)-2-methyl-2H-tetrazole | 0.48 g | NS(=O)(=O)C1=C(C=CC=C1)C=1N=NN(N1)C | C8H9N5O2S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 0.54 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | DBU | 0.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(2-methyl-2H-tetrazol-5-yl)benzenesulfonamide | 0.66 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C=1N=NN(N1)C | C15H16N8O5S
